US04559402
Preparation of 2-methyl-3-nicotinoylpyrazolo[1,5-a]pyridine
To a solution of 110 g of 2-methylpyrazolo[1,5-a]pyridine in 600 ml of 1,4-dioxane was added 150 g of nicotinyl chloride hydrochloride with stirring. The resulting solution was heated to reflux for 2 hours, and after removal of solvent in vacuo, the residue was dissolved in 500 ml of water and neutralized with potassium carbonate. The aqueous layer was extracted with 500 ml of benzene, the extract was dried over anhydrous Na2SO4, and after removal of solvent, the residue was recrystallized from ethyl acetate-hexane to afford 110 g of the title compound. Concentrating the mother liquors gave a second crop of crystals, which weighed 10 g; total yield 120 g (61%), mp 89°-90° C.

reactant | 2-methylpyrazolo[1,5-a]pyridine | 110 g | CC1=NN2C(C=CC=C2)=C1 | C8H8N2
reactant | nicotinyl chloride hydrochloride | 150 g | Cl.C(C1=CN=CC=C1)Cl
reactant | 1,4-dioxane | 600 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-3-nicotinoylpyrazolo[1,5-a]pyridine | 110 g | CC1=NN2C(C=CC=C2)=C1C(C1=CN=CC=C1)=O | C14H11N3O
